US04518597
7-Chloro-6-[4-(4-methyl-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 7-chloro-6-[4-(4-methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 7-chloro-6-[4-(4-methyl-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=CC2=C(C(OC(N2)=O)(C)C)C=C1OCCCCSC1=CC=C(C=C1)C | C21H24ClNO3S
reactant | hydrogen peroxide | OO | H2O2
product | 7-Chloro-6-[4-(4-methyl-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | ClC1=CC2=C(C(OC(N2)=O)(C)C)C=C1OCCCCS(=O)C1=CC=C(C=C1)C | C21H24ClNO4S
